data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3862,4420,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12](=[O:13])[NH:14][CH3:15])=[N+:16]([CH3:17])[CH-:18][C:19]#[N:20]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:12](=[O:13])[NH:14][CH3:15])[N:16]([CH3:17])[CH:18]1[C:19]#[N:20],water,298.15,17.979184573768578,-21.40485303936534
2782,3092,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([C:13]([CH3:14])=[O:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][NH:25][C:26](=[O:27])[CH:28]=[O+:29][C-:30]([C:31](=[O:32])[NH:33][CH3:34])[C:35](=[O:36])[O:37][CH3:38]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13]([CH3:14])=[O:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1)[CH:28]([C:26]([NH:25][CH3:24])=[O:27])[O:29][C:30]2([C:31](=[O:32])[NH:33][CH3:34])[C:35](=[O:36])[O:37][CH3:38],water,298.15,8.653454728555209,-65.20218461340318
86,97,[CH3:10][C:11](=[O:12])[C:13]#[N+:14][N-:15][C:16]#[N:17].[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][C:7]([CH3:8])=[O:9]>>[CH3:1][O:2][C:3](=[O:4])[c:5]1[c:6]([C:7]([CH3:8])=[O:9])[c:13]([C:11]([CH3:10])=[O:12])[n:14][n:15]1[C:16]#[N:17],water,298.15,17.532599510958775,-74.32250030949659
1580,1749,[CH3:1][NH:2][C:3](=[O:4])/[C:5](=[C:6](\[C:7](=[O:8])[NH:9][CH3:10])[C:11]([F:12])([F:13])[F:14])[C:15]([F:16])([F:17])[F:18].[CH:19]#[N+:20][C-:21]([CH3:22])[C:23](=[O:24])[NH:25][CH3:26]>>[CH3:1][NH:2][C:3](=[O:4])[C@@:5]1([C:15]([F:16])([F:17])[F:18])[C@:6]([C:7](=[O:8])[NH:9][CH3:10])([C:11]([F:12])([F:13])[F:14])[C:21]([CH3:22])([C:23](=[O:24])[NH:25][CH3:26])[N:20]=[CH:19]1,water,298.15,8.994062040214068,-35.25173672947311
3486,3970,[CH3:10][C:11](=[O:12])[CH:13]=[N+:14]([CH3:15])[CH-:16][C:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[CH:13]([C:11]([CH3:10])=[O:12])[N:14]([CH3:15])[CH:16]1[C:17]#[N:18],water,298.15,24.54472557913945,-18.15491956043636
3023,3380,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[CH:7]=[N+:8]([CH3:9])[C-:10]([C:11]#[N:12])[C:13]#[N:14]>>[CH2:1]1[CH2:2][C:10]([C:11]#[N:12])([C:13]#[N:14])[N:8]([CH3:9])[CH:7]1[C:5]([NH:4][CH3:3])=[O:6],water,298.15,16.486301926452573,-26.60348175638539
3730,4266,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9]([CH3:10])=[NH+:11][C-:12]([C:13]([CH3:14])=[O:15])[C:16](=[O:17])[O:18][CH3:19]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:12]([C:13]([CH3:14])=[O:15])([C:16](=[O:17])[O:18][CH3:19])[NH:11][C:9]1([C:7]([O:6][CH3:5])=[O:8])[CH3:10],water,298.15,28.970552446911945,-16.248202723976966
460,502,[CH2:11]=[NH+:12][CH-:13][C:14](=[O:15])[O:16][CH3:17].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[CH2:11][NH:12][CH:13]3[C:14](=[O:15])[O:16][CH3:17],water,298.15,10.786258175616323,-46.14370206219232
2739,3045,[CH3:18][C:19](=[O:20])[C:21]([CH3:22])=[N+:23]([CH3:24])[C-:25]([C:26]([CH3:27])=[O:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([O:10][CH3:11])([O:12][CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([O:10][CH3:11])([O:12][CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:21]([C:19]([CH3:18])=[O:20])([CH3:22])[N:23]([CH3:24])[C:25]2([C:26]([CH3:27])=[O:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,30.11276445449602,-36.72938964891953
2732,3037,[CH3:15][NH:16][C:17](=[O:18])[N-:19][O+:20]=[N:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]#[C:7][C:8]([Br:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]2=[C:7]([C:8]([Br:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[N:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[O:20][N:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,36.553606951918304,-45.38248808056439
2159,2395,[CH3:9][NH:10][C:11](=[O:12])[C:13]([C:14](=[O:15])[O:16][CH3:17])=[N+:18]([CH3:19])[C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:14](=[O:15])[O:16][CH3:17])[N:18]([CH3:19])[C:20]2([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,44.51806495315645,-27.62433693934485
